US07192968B2
(1R*,2S*)-4-Hydroxy-4-methyl-1,2-cyclohexanediamine (Stereoisomer A)
10% Palladium on carbon (350 mg) was suspended in a methanol solution (100 ml) of (1R*,2S*)-N1,N2-bis(benzyloxycarbonyl)-4-hydroxy-4-methyl-1,2-cyclohexanediamine (Stereoisomer A) (780 mg), and the suspension was stirred for 5 hours in a hydrogen atmosphere. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. After the residue was dissolved in dichloromethane (100 ml), and the solution was dried over anhydrous sodium sulfate, the solvent was distilled off to obtain the title compound (Stereoisomer A) (190 mg) as a colorless oil.

reactant | (1R*,2S*)-N1,N2-bis(benzyloxycarbonyl)-4-hydroxy-4-methyl-1,2-cyclohexanediamine | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CC(CC1)(C)O)NC(=O)OCC1=CC=CC=C1 | C23H28N2O5
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 350 mg | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | (1R*,2S*)-4-Hydroxy-4-methyl-1,2-cyclohexanediamine | OC1(C[C@@H]([C@@H](CC1)N)N)C | C7H16N2O
